US05556864
14(a) 2-{2-[4-(3-Methoxyphenyl)butyl]phenoxymethyl}oxirane
Following a procedure similar to that described in Example 1(a), 3.40 g of 2-[4-(3-methoxyphenyl)butyl]phenol (prepared as described in Preparation 7), 1.5 g of potassium t-butoxide and 3.63 9 of epibromohydrin were reacted in 70 ml of dimethylacetamide. The crude product, extracted as described in Example 1(a), was purified as described in Example 1(a), to give 3.73 g (yield 90%) of the title compound as a colorless oil.

reactant | 2-[4-(3-methoxyphenyl)butyl]phenol | 3.40 g | COC=1C=C(C=CC1)CCCCC1=C(C=CC=C1)O | C17H20O2
reactant | potassium t-butoxide | 1.5 g | CC(C)([O-])C.[K+]
reactant | epibromohydrin | C(Br)C1CO1 | C3H5BrO
solvent | dimethylacetamide | 70 ml | CC(=O)N(C)C | C4H9NO
product | 2-{2-[4-(3-Methoxyphenyl)butyl]phenoxymethyl}oxirane | 3.73 g, yield 90% | COC=1C=C(C=CC1)CCCCC1=C(OCC2OC2)C=CC=C1 | C20H24O3
